US04775671
A mixture of 4.44 g (12.2 mmol) of ethyl (S)-12,12a-dihydro-9-oxo-8-(trifluoromethyl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate, 0.556 g (13.9 mmol) of sodium hydroxide, 18 ml of ethanol and 9 ml of water is heated to boiling under reflux for 1 hour. The ethanol is then distilled off in vacuo and the residue is diluted with 25 ml of water. The mixture is neutralized by the addition of 13.9 ml (13.9 mmol) of 1N hydrochloric acid, the mixture is cooled to about 0°, the product is filtered off under suction, rinsed with water and dried at 90° in a high vacuum. There is obtained (S)-12,12a-dihydro-9-oxo-8-(trifluoromethyl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid of decomposition point 227°-228°.

reactant | ethyl (S)-12,12a-dihydro-9-oxo-8-(trifluoromethyl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 12.2 mmol, 4.44 g | O=C1N2[C@H](C=3N(C4=C1C(=CC=C4)C(F)(F)F)C=NC3C(=O)OCC)CC2 | C17H14F3N3O3
reactant | sodium hydroxide | 13.9 mmol, 0.556 g | [OH-].[Na+]
reactant | ethanol | 18 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 13.9 mmol, 1N, 13.9 ml | Cl | ClH
solvent | water | 9 ml | O | H2O
product | (S)-12,12a-dihydro-9-oxo-8-(trifluoromethyl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid | O=C1N2[C@H](C=3N(C4=C1C(=CC=C4)C(F)(F)F)C=NC3C(=O)O)CC2 | C15H10F3N3O3
